US06894045B2
3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione (6.00 g, 17.69 mmol), prepared according to the procedure in example 1, was dissolved in anhydrous DMF (80 mL). K2CO3 (6.11 g, 44.23 mmol), Bu4NI (1.31 g, 3.54 mmol) and BOMCl (4.4 mL, 31.84 mmol) were added and the reaction mixture was heated at 45° C. for 50 min. The reaction mixture was cooled to rt and was stirred with saturated aqueous NaHCO3 (180 mL) for 30 min. The mixture was poured into a separatory funnel containing ether (600 mL). The organic layer was washed with H2O (4×80 mL), brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column chromatography on silica gel (40% ethyl acetate in hexanes) to give 7-benzyloxymethyl-3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione (5.28 g, 65% yield) as an amorphous solid: 1H NMR (300 MHz, CDCl3) δ 7.59 (d, J=2.2 Hz, 1H), 7.42 (dd, J=8.4, 2.2 Hz, 1H), 7.37-7.26 (m, 6H), 5.86 (ABq, JAB=11.0, Δυ=39.7 Hz, 2H), 4.72 (s, 2H), 3.46 (s, 3H), 2.79 (q, J=7.7 Hz, 2H), 1.25 (t, J=7.6 Hz, 3H); LRMS (APCI) m/e 459.0 [(M+H)+, calcd for C22H21N4O3Cl2 459.1].

reactant | 3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 17.69 mmol, 6.00 g | ClC1=C(C=CC(=C1)Cl)N1C(N(C(C=2NC(=NC12)CC)=O)C)=O | C14H12Cl2N4O2
reactant | K2CO3 | 44.23 mmol, 6.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BOMCl | 31.84 mmol, 4.4 mL | C(OCC1=CC=CC=C1)Cl | C8H9ClO
reactant | NaHCO3 | 180 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
catalyst | Bu4NI | 3.54 mmol, 1.31 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | ether | 600 mL | CCOCC | C4H10O
product | 7-benzyloxymethyl-3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 5.28 g, 65% yield | C(C1=CC=CC=C1)OCN1C(=NC=2N(C(N(C(C12)=O)C)=O)C1=C(C=C(C=C1)Cl)Cl)CC | C22H20Cl2N4O3
